US06436965B1
(1-{[4-(Tert-butyl)phenyl)methyl}-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide (Compound 172)
Into a round bottom flask was placed methyl 3-(phenylmethoxy)indole-2-carboxylate (50 mg) along with DMF (1.0 mL), THF (1.0 mL) and 10 mg of a NaH suspension (60% in oil). To this stirred mixture was added 4-tert-butylbenzyl bromide and allowed to stir at room temperature overnight. At this time, the reaction mixture was diluted with H2O, poured into a teflon fritted cartridge and extracted with CH2Cl2. The filtrate was concentrated and then treated with THF/H2O (5.0 mL, 1:1), MeOH (2.0 mL), NaOH (1 mL of a 1N aq. solution) and allowed to stir at room temperature overnight. At this time, the reaction mixture was acidified to pH 4 with an aqueous 1N HCl solution, diluted with 2 mL H2O, extracted with CH2Cl2 through a teflon fritted cartridge as above and the filtrate was concentrated. The resulting crude carboxylic acid was taken up in THF (2.0 mL) and treated with i-Pr2NEt (0.1 mL), MsCl (10 μL) followed by 3-aminopyridine (50 mg) as described previously for the preparation of example 166. After work-up and purification by flash chromatography 10.6 mg of the title amide was isolated.

reactant | methyl 3-(phenylmethoxy)indole-2-carboxylate | 50 mg | C1(=CC=CC=C1)COC1=C(NC2=CC=CC=C12)C(=O)OC | C17H15NO3
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
reactant | NaH | 10 mg | [H-].[Na+]
reactant | 4-tert-butylbenzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | H2O | O | H2O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (1-{[4-(Tert-butyl)phenyl)methyl}-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide | C(C)(C)(C)C1=CC=C(C=C1)CN1C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)N(C=O)C=1C=NC=CC1 | C32H31N3O2
